US05514696
N-(3,4-Dimethyl-5-isoxazolyl)-2-nitro-benzenesulfonamide
To a solution of 4.04 g (36 mmol) of 3,4-dimethyl-5-isoxazolamine in 15 mL of pyridine, 8.0 g (36 mmol) of 2-nitrobenzenesulfonyl chloride was added and the solution was stirred at room temperature overnight. The mixture was poured into 100 mL of ice water and filtered. The filtrate was acidified to pH 2 using 6N aqueous hydrochloric acid and the mixture was extracted with 4×125 mL of ethyl acetate. The combined organic extracts were washed with 75 mL of brine, dried and evaporated to provide 9.1 g of a dark brown residue. This material was chromatographed on silica gel using hexanes/ethyl acetate (2:1) to provide 0.5 g of Example 9 as a light yellow solid. Melting point: 91°-94° C. Analysis for C11H11N3O5S Calc'd: C, 44.44; H, 3.73; N, 14.13; S, 10.78. Found: C, 44.75; H, 3.69; N, 14.01; S, 11.06.

reactant | 3,4-dimethyl-5-isoxazolamine | 36 mmol, 4.04 g | CC1=NOC(=C1C)N | C5H8N2O
reactant | 2-nitrobenzenesulfonyl chloride | 36 mmol, 8.0 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | N-(3,4-Dimethyl-5-isoxazolyl)-2-nitro-benzenesulfonamide | 9.1 g | CC1=NOC(=C1C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C11H11N3O5S
